US05814631
Synthesis of 7-chloro-3-(2,6-dichlorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 131)
1.12 g (4.42 mmol) of 2,6-dichlorobenzenesulfonylisocyanate and 882 mg (4.42 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 725 mg of the above-identified compound (yield 40.5%). Properties: colorless crystal, Melting point: 260°-261° C., PMR (δppm, DMSO-d6):7.18 (1H,s), 7.22 (1H,br), 7.63 (3H,br), 7.88 (1H,d), 11.83 (1H,br).

reactant | 2,6-dichlorobenzenesulfonylisocyanate | 4.42 mmol, 1.12 g | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N=C=O | C7H3Cl2NO3S
reactant | 2-amino-4-chlorobenzoic acid | 4.42 mmol, 882 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(2,6-dichlorobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 725 mg, yield 40.5% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=C(C=CC=C1Cl)Cl)=O | C14H7Cl3N2O4S
